US04520193
A solution of 3-acetonyl-2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (5 g) in a mixture of methylene chloride (60 cc) and N,N-dimethylacetamide (2.3 cc) is cooled to -10° C. Phosphorus trichloride (1.01 cc) is then added and the mixture is stirred for one hour at -10° C. The reaction mixture is diluted with ethyl acetate (300 cc), washed successively with a saturated solution of sodium bicarbonate (50 cc) and distilled water (300 cc), dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the syn isomer of 3-acetonyl-2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (4.5 g) in the form of a hard yellow foam.

reactant | 3-acetonyl-2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 5 g | C(C(=O)C)C1=C(N2C(C(C2S(C1)=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C48H41N5O7S2
reactant | Phosphorus trichloride | 1.01 cc | P(Cl)(Cl)Cl | Cl3P
solvent | methylene chloride | 60 cc | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylacetamide | 2.3 cc | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
product | 3-acetonyl-2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 4.5 g | C(C(=O)C)C1=C(N2C(C(C2SC1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C48H41N5O6S2
